US04895847
10 Grams of (2,3-dihydro-7-hydroxy-1-hydroxyimino-4-methyl-1H-indene-6-yl)methylaminocarbonylmethylpyridinium chloride, 200 ml of acetic acid and 1.0 g of platinum oxide were subjected to catalytic hydrogenation under 3 atmospheric hydrogen gas pressure at room temperature for 8 hours. After the hydrogenation was completed, the catalyst was removed by filtration, and the filtrate was concentrated to dryness under a reduced pressure. The residue thus obtained was dissolved in 100 ml of methanol and under ice-cooled condition, a methanol solution saturated with hydrogen chloride gas was added thereto so as to adjust the pH of the solution to about pH 1, then the said solution was concentrated to dryness under a reduced pressure. The residue thus obtained was recrystallized from ethanol-diethyl ether to obtain 4.8 g of 1-amino-2,3-dihydro-7-hydroxy-4-methyl-6-piperidinylacetylaminomethyl-1H-indene dihydrochloride. Colorless powdery crystals. Melting point: 146° C. (decomposed).

reactant | (2,3-dihydro-7-hydroxy-1-hydroxyimino-4-methyl-1H-indene-6-yl)methylaminocarbonylmethylpyridinium chloride | [Cl-].OC=1C(=CC(=C2CCC(C12)=NO)C)CNC(=O)C[N+]1=CC=CC=C1
reactant | acetic acid | 200 ml | C(C)(=O)O | C2H4O2
reactant | hydrogen | [H][H] | H2
reactant | hydrogen chloride | Cl | ClH
solvent | methanol | 100 ml | CO | CH4O
catalyst | platinum oxide | 1.0 g | [Pt]=O
product | 1-amino-2,3-dihydro-7-hydroxy-4-methyl-6-piperidinylacetylaminomethyl-1H-indene dihydrochloride | 4.8 g | Cl.Cl.NC1CCC2=C(C=C(C(=C12)O)CNC(CN1CCCCC1)=O)C | InChI=1S/C18H27N3O2.2ClH/c1-12-9-13(18(23)17-14(12)5-6-15(17)19)10-20-16(22)11-21-7-3-2-4-8-21;;/h9,15,23H,2-8,10-11,19H2,1H3,(H,20,22);2*1H
